US04962145
Pentaerythritol dimontanate
28.1 g pentaerythritol (0.207 mole), 165 g montanic acid (0.413 mole) and 0.4 g tin powder were heated as in Example 1 to 200° C. with application of a gentle vacuum. The vacuum was increased to 20 mbar over a period of 2 h. The product had an acid value of approximately 1. A yellow, brown-tinged hard wax having a dropping point of 79° C. was obtained after cooling to 100° C., bleaching and filtering.

reactant | pentaerythritol | 0.207 mole, 28.1 g | OCC(CO)(CO)CO | C5H12O4
reactant | montanic acid | 0.413 mole, 165 g | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)O | C28H56O2
reactant | tin | 0.4 g | [Sn] | Sn
product | Pentaerythritol dimontanate | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)OCC(COC(CCCCCCCCCCCCCCCCCCCCCCCCCCC)=O)(CO)CO | C61H120O6
